US08372842B2
(Z)-tert-Butyl 4-(1-(4-methoxybenzyl)-3-(2-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)vinyl)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (0.084 g, 0.12 mmol) in DCM (1 mL) was added TFA (0.5 mL) and stirred at room temperature for 1 hour. The solvent was removed. The residue was dissolved in TFA (4 ml) and heated at 78° C. (bath) in a sealed tube overnight. The solvent was removed. The residue was dissolved in DCM (0.5 mL) and 2N HCl in ether (1 mL) was added. The solid formed was collected by filtration to give (Z)-3-(2-(1H-pyrazol-4-yl)vinyl)-5-phenyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine hydrochloride (0.051 g, 97%) as a solid.

reactant | (Z)-tert-Butyl 4-(1-(4-methoxybenzyl)-3-(2-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)vinyl)-5-phenyl-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 0.12 mmol, 0.084 g | COC1=CC=C(CN2N=C(C=3C2=NC=C(C3N3CCN(CC3)C(=O)OC(C)(C)C)C3=CC=CC=C3)\C=C/C=3C=NN(C3)CC3=CC=C(C=C3)OC)C=C1 | C42H45N7O4
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (Z)-3-(2-(1H-pyrazol-4-yl)vinyl)-5-phenyl-4-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridine hydrochloride | 0.051 g, 97% | Cl.N1N=CC(=C1)\C=C/C1=NNC2=NC=C(C(=C21)N2CCNCC2)C2=CC=CC=C2 | InChI=1S/C21H21N7.ClH/c1-2-4-16(5-3-1)17-14-23-21-19(20(17)28-10-8-22-9-11-28)18(26-27-21)7-6-15-12-24-25-13-15;/h1-7,12-14,22H,8-11H2,(H,24,25)(H,23,26,27);1H/b7-6-;
